US05496843
2) 6-Aminotetralin
To a solution of 6-nitrotetralin (11.5 g, 64.9 mmol) in a mixture of methanol (30 mL) and conc. HCl (40 mL) was added iron powder (11.35 g, 203.2 mmol) by portions over 1 h at room temperature. The mixture was stirred for 1 h at room temperature, poured into water (600 mL), neutralized to ca. pH 6 by addition of 1N aqueous sodium hydroxide, extracted with ethyl acetate (300 mL×2). Organic layers were washed with brine, dried over magnesium sulfate, and concentrated to give 9.45 g of the title compound: 1H NMR (CDCl3) δ6.85 (d, 1H, J=8.1 Hz), 6.46 (dd, 1H, J=8.1, 2.5 Hz), 6.42 (s, 1H), 3.44 (bs, 2H), 2.65 (m, 4H), 1.75 (m, 4H).

reactant | 6-nitrotetralin | 64.9 mmol, 11.5 g | [N+](=O)([O-])C=1C=C2CCCCC2=CC1 | C10H11NO2
reactant | HCl | 40 mL | Cl | ClH
reactant | water | 600 mL | O | H2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
catalyst | iron | 203.2 mmol, 11.35 g | [Fe] | Fe
product | 6-Aminotetralin | 9.45 g | NC=1C=C2CCCCC2=CC1 | C10H13N
